US05486638
1-Bromo-3-tri-n-propylsilanyl-benzene is prepared in a manner analogous to the procedure described in examples 1 and 1a utilizing 1,3-dibromobenzene and chloro-tri-n-propylsilane as the ClSiR1R2R3 compound.

reactant | 1,3-dibromobenzene | BrC1=CC(=CC=C1)Br | C6H4Br2
reactant | chloro-tri-n-propylsilane | Cl[Si](CCC)(CCC)CCC | C9H21ClSi
product | 1-Bromo-3-tri-n-propylsilanyl-benzene | BrC1=CC(=CC=C1)[Si](CCC)(CCC)CCC | C15H25BrSi
